US08748453B2
Preparation of 6-amino-4-(3-chloro-4-(pyridin-2-ylmethoxy)phenylamino)-7-(2-methoxyethoxy)quinoline-3-carbonitrile
A mixture of N-(4-chloro-3-cyano-7-(2-methoxyethoxy)quinolin-6-yl)acetamide (6.3 g, 0.0197 mol, 1.00 equiv), 3-chloro-4-(2-pyridylmethoxy)aniline (4.7 g, 0.0201 mol, 1.00 equiv), methanesulfonic acid (0.7 ml, 0.0108 mol) and ethanol (150 ml) was stirred under refluxed for 6 hours and then 0.6N hydrogen chloride (300 ml, 0.18 mol) was added. The mixture was heated to 80° C. for 19 hours, and then cooled to 0° C. to form precipitate. The precipitated solids were filtered and then added to a solution of 1N potassium carbonate (100 ml, 0.1 mol) in methanol (150 ml) and then the mixture was stirred for 3 hours. The resulting mixture was filtered, washed with 1:1 methanol/water (300 ml) and dried to give product 6.4 g. MS (ESI) m/z: 475 (M+1).

reactant | N-(4-chloro-3-cyano-7-(2-methoxyethoxy)quinolin-6-yl)acetamide | 0.0197 mol, 6.3 g, 1.00 equiv | ClC1=C(C=NC2=CC(=C(C=C12)NC(C)=O)OCCOC)C#N | C15H14ClN3O3
reactant | 3-chloro-4-(2-pyridylmethoxy)aniline | 0.0201 mol, 4.7 g, 1.00 equiv | ClC=1C=C(N)C=CC1OCC1=NC=CC=C1 | C12H11ClN2O
reactant | methanesulfonic acid | 0.0108 mol, 0.7 ml | CS(=O)(=O)O | CH4O3S
reactant | hydrogen chloride | 0.18 mol, 0.6N, 300 ml | Cl | ClH
reactant | potassium carbonate | 0.1 mol, 1N, 100 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 150 ml | CO | CH4O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 6-amino-4-(3-chloro-4-(pyridin-2-ylmethoxy)phenylamino)-7-(2-methoxyethoxy)quinoline-3-carbonitrile | 6.4 g | NC=1C=C2C(=C(C=NC2=CC1OCCOC)C#N)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl | C25H22ClN5O3
